US08048899B2
Activation of 336 mg (1.15 mmol) of 2-(2-fluoro-4-methanesulfonyl-phenylsulfanyl)-2-methyl-propionic acid as its acid chloride is achieved by treatment with oxalyl chloride (0.3 mL, 3.45 mmol) and DMF (1 drop) in DCM (15 mL) at room temperature for 3 h. The solvent is removed under reduced pressure and the crude acid chloride is dissolved in toluene (5 mL) and added to a solution of 196 mg (1.15 mmol) of 3-(2-methoxy-1,1-dimethyl-ethyl)-isoxazol-5-ylamine and N,N-diisopropylethylamine (0.40 mL, 2.3 mmol) in toluene. The reaction is heated to 50° C. for 18 h. After cooling to room temperature, the reaction mixture is diluted with ethyl acetate (20 mL) and washed with 1M aqueous HCl solution (2×10 mL), water (2×10 mL), saturated aqueous NaHCO3 solution (2×10 mL), brine (10 mL). The organic layer is dried (Na2SO4), filtered and the filtrate is concentrated under reduced pressure. The residue is purified twice by column chromatography (silica, eluent: heptanes, 20-50% ethyl acetate, followed by heptanes, 10% ethyl acetate) to afford 220 mg of 2-(2-fluoro-4-methanesulfonyl-phenylsulfanyl)-N-[3-(2-methoxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-2-methyl-propionamide. Yield: 43%, ES-MS: m/z 445 [M+H]

reactant | 2-(2-fluoro-4-methanesulfonyl-phenylsulfanyl)-2-methyl-propionic acid | 1.15 mmol, 336 mg | FC1=C(C=CC(=C1)S(=O)(=O)C)SC(C(=O)O)(C)C | C11H13FO4S2
reactant | oxalyl chloride | 3.45 mmol, 0.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(2-methoxy-1,1-dimethyl-ethyl)-isoxazol-5-ylamine | 1.15 mmol, 196 mg | COCC(C)(C)C1=NOC(=C1)N | C8H14N2O2
reactant | N,N-diisopropylethylamine | 2.3 mmol, 0.40 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-fluoro-4-methanesulfonyl-phenylsulfanyl)-N-[3-(2-methoxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-2-methyl-propionamide | 220 mg, Yield: 43% | FC1=C(C=CC(=C1)S(=O)(=O)C)SC(C(=O)NC1=CC(=NO1)C(COC)(C)C)(C)C | C19H25FN2O5S2
